US08536183B2
(2S)-2-methyl-1-[(6-methyl-3-pyridinyl)carbonyl]-4-{[2-methyl-4-(trifluoromethyl)phenyl]sulfonyl}piperazine hydrochloride
(2S)-4-{[2-bromo-4-(trifluoromethyl)phenyl]sulfonyl}-2-methyl-1-[(6-methyl-3-pyridinyl)carbonyl]piperazine (may be prepared as described in Description 31) (216 mg, 0.427 mmol), potassium carbonate (153 mg, 1.109 mmol) in 1,4-dioxane (9 ml) were stirred for 5 min then trimethylboroxin (0.154 ml, 1.109 mmol) and Pd(PPh3)4 (84 mg, 0.073 mmol) were added and the reaction mixture heated at 100° C. for 1 h. The reaction mixture was concentrated under vacuum, dissolved in MeOH and filtered through a 5 g SCX column. LCMS showed still some triphenylphosphine oxide and another small impurity so the product was dissolved in EtOAc (40 ml) and extracted with HCl 2N (40 ml). 2 N NaOH was added to the aqueous layer until pH12 and product extracted with EtOAc (100 ml). The organic phase was dried on a phase separation cartridge and concentrated under vacuum. LCMS of the first EtOAc layer showed it contained some of the product so was extracted again with 2 N HCl (40 ml). 2 N NaOH was added to the aqueous layer until pH12 and product extracted with EtOAc (100 ml). The organic layer was dried on a phase separation cartridge and the two batches were combined and concentrated under vacuum to give the free base of the product. The product was suspended in DCM, 0.5 ml of 1N HCl in ether was added and the solvent was evaporated to give the title compound (193 mg).

reactant | (2S)-4-{[2-bromo-4-(trifluoromethyl)phenyl]sulfonyl}-2-methyl-1-[(6-methyl-3-pyridinyl)carbonyl]piperazine | 0.427 mmol, 216 mg | BrC1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)N1C[C@@H](N(CC1)C(=O)C=1C=NC(=CC1)C)C | C19H19BrF3N3O3S
reactant | potassium carbonate | 1.109 mmol, 153 mg | C([O-])([O-])=O.[K+].[K+]
reactant | trimethylboroxin | 1.109 mmol, 0.154 ml | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | HCl | 1N, 0.5 ml | Cl | ClH
solvent | 1,4-dioxane | 9 ml | O1CCOCC1 | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
catalyst | Pd(PPh3)4 | 0.073 mmol, 84 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2S)-2-methyl-1-[(6-methyl-3-pyridinyl)carbonyl]-4-{[2-methyl-4-(trifluoromethyl)phenyl]sulfonyl}piperazine hydrochloride | 193 mg | Cl.C[C@@H]1N(CCN(C1)S(=O)(=O)C1=C(C=C(C=C1)C(F)(F)F)C)C(=O)C=1C=NC(=CC1)C | InChI=1S/C20H22F3N3O3S.ClH/c1-13-10-17(20(21,22)23)6-7-18(13)30(28,29)25-8-9-26(15(3)12-25)19(27)16-5-4-14(2)24-11-16;/h4-7,10-11,15H,8-9,12H2,1-3H3;1H/t15-;/m0./s1
